### PR TITLE
Hacspec and equivalence between galena and fiat-crypto

### PR DESCRIPTION
**Pull request by KasperSNielsen**
My work so far. I finished the proof between galena and fiat-crypto. Next step is connecting it to the hacspec specification.

### CODE REVIEW

File: Makefile.conf [hunk 1]
```diff
@@ -35,9 +35,9 @@ COQMF_CMDLINE_COQLIBS =
 ###############################################################################
 
 COQMF_LOCAL=0
-COQMF_COQLIB=/home/au543200/.opam/4.07.1/lib/coq/
-COQMF_DOCDIR=/home/au543200/.opam/4.07.1/doc/
-COQMF_OCAMLFIND=/home/au543200/.opam/4.07.1/bin/ocamlfind
+COQMF_COQLIB=/home/kasserne/.opam/4.11.1/lib/coq/
```
Comment (spitters) [inline Makefile.conf:38]: This file probably should not be checked in, or at least the paths should be regenerated

File: src/Hacspec/Curve/Bls.v [hunk 2]
```diff
@@ -0,0 +1,666 @@
+Require Import Hacspec.Util.Lib.
+Require Import Hacspec.Util.MachineIntegers.
+From Coq Require Import ZArith.
+Import List.ListNotations.
+Open Scope Z_scope.
+Open Scope bool_scope.
+Open Scope hacspec_scope.
+
```
Comment (spitters) [inline src/Hacspec/Curve/Bls.v:8]: Please add some documentation about what's in this file.

File: src/Hacspec/Curve/Bls.v [hunk 3]
```diff
@@ -0,0 +1,666 @@
...
+Notation "'fp2'" := ((fp × fp)) : hacspec_scope.
+
+Notation "'g2'" := ((fp2 × fp2 × bool)) : hacspec_scope.
+
+Notation "'fp6'" := ((fp2 × fp2 × fp2)) : hacspec_scope.
+
+Notation "'fp12'" := ((fp6 × fp6)) : hacspec_scope.
+
+Definition fp2fromfp (n_2 : fp) : fp2 :=
+  (n_2, nat_mod_zero ).
```
Comment (spitters) [inline src/Hacspec/Curve/Bls.v:36]: Do you want to make this a coercion?

File: src/Hacspec/Curve/Bls.v [hunk 4]
```diff
@@ -0,0 +1,666 @@
...
+
+Definition fp2zero  : fp2 :=
+  fp2fromfp (nat_mod_zero ).
+
```
Comment (spitters) [inline src/Hacspec/Curve/Bls.v:40]: (* We will now construct the field F_{p^2}, similar to the construction of the complex numbers *)

File: src/Hacspec/Curve/Bls.v [hunk 5]
```diff
@@ -0,0 +1,666 @@
...
+    (n1_23) *% (t1_26) in 
+  let x2_28 :=
+    (nat_mod_zero ) -% ((n2_24) *% (t1_26)) in 
+  (x1_27, x2_28).
+
+Definition fp2conjugate (n_29 : fp2) : fp2 :=
+  let '(n1_30, n2_31) :=
+    n_29 in 
+  (n1_30, (nat_mod_zero ) -% (n2_31)).
+
```
Comment (spitters) [inline src/Hacspec/Curve/Bls.v:84]: (* Construction of the field F_p6.
   Ultimately, we would like to use the general theory of field extensions *)

File: src/Hacspec/Curve/Bls.v [hunk 6]
```diff
@@ -0,0 +1,666 @@
+Require Import Hacspec.Util.Lib.
```
Comment (spitters) [inline src/Hacspec/Curve/Bls.v:1]: Is this the autogenerated file?

File: src/Hacspec/Curve/EquivToBedrock.v [hunk 7]
```diff
@@ -0,0 +1,146 @@
...
+
+Local Infix "*'" := (my_mul m) (at level 40).
+Local Infix "+'" := (my_add m) (at level 50).
+Local Infix "-'" := (my_sub m) (at level 50).
+
+Local Infix "*m" := (mul m) (at level 40).
+Local Infix "+m" := (add m) (at level 50).
+Local Infix "-m" := (sub m) (at level 50).
+
+Definition fp_a := mkznz _ _ (modz m a).
```
Comment (spitters) [inline src/Hacspec/Curve/EquivToBedrock.v:60]: Maybe more parameters of mkznz should be implicit?

File: src/Hacspec/Curve/EquivToBedrock.v [hunk 8]
```diff
@@ -0,0 +1,146 @@
...
+Lemma add_elim_mod: forall x y, x mod m +' y mod m = x +' y.
+Proof. intros. unfold my_add. symmetry. apply Zplus_mod. Qed.
+
+Lemma mul_elim_mod: forall x y, (x mod m) *' (y mod m) = x *' y.
+Proof. intros. unfold my_mul. symmetry. apply Z.mul_mod. unfold m. congruence. Qed.
+
+Lemma sub_elim_mod: forall x y, x mod m -' y mod m = x -' y.
+Proof. intros. unfold my_sub. symmetry. apply Zminus_mod. Qed.
+
+Ltac helper := repeat (try rewrite add_eq; try rewrite mul_eq; try rewrite sub_eq; try rewrite val_eq; try rewrite add_elim_mod; try rewrite mul_elim_mod; try rewrite sub_elim_mod).
```
Comment (spitters) [inline src/Hacspec/Curve/EquivToBedrock.v:127]: Would autorewrite help?

File: src/Hacspec/Curve/EquivToBedrock.v [hunk 9]
```diff
@@ -0,0 +1,146 @@
...
+
+Lemma galina_fiat_crypto_equiv : forall X1 X2 Y1 Y2 Z1 Z2 outx outy outz on_curve1 on_curve2 not_except, 
+    (BLS12_add_Gallina_spec X1 Y1 Z1 X2 Y2 Z2 outx outy outz <-> 
+    (evfrom outx, evfrom outy, evfrom outz) = pair_val (proj1_sig (fc_proj_add (to_fc_point_from_mont X1 Y1 Z1 on_curve1) (to_fc_point_from_mont X2 Y2 Z2 on_curve2) not_except))).
+Proof. split.
+    - unfold BLS12_add_Gallina_spec. unfold MontgomeryCurveSpecs.BLS12_add_Gallina_spec. intros H. apply pair_equal_spec in H. destruct H as [H H3]. apply pair_equal_spec in H. destruct H as [H1 H2].
+    apply pair_equal_spec. split.
+        + apply pair_equal_spec. split.
+            * unfold fp_a, fp_3_b. helper. rewrite <- a_small. rewrite <- three_b_small. rewrite H1. reflexivity.
```
Comment (spitters) [inline src/Hacspec/Curve/EquivToBedrock.v:136]: Rewrites can be combined:
rewrite <- a_small, <- three_b_small, H1.

File: src/Hacspec/Curve/blsprime.v [hunk 10]
```diff
@@ -0,0 +1,325 @@
+From Coqprime Require Import PocklingtonRefl.
+Local Open Scope positive_scope.
+
```
Comment (spitters) [inline src/Hacspec/Curve/blsprime.v:3]: Add a comment what is in this file.

**Comment by spitters** [comment]
Generally looks good. I've left some comments. Maybe it is also good to update the README, explaining what these files do.
@RasmusHoldsbjergCSAU will have some more remarks.

**Comment by KasperSNielsen** [comment]
The file Bls.v is the compiled coq code from the hacspec specification, which I've not touched. The Util files are the libraries that Milo wrote that the compiled code needs.

**Comment by spitters** [comment]
Could you update the hacspec backend to output a message that this is an automatically generated file?
@cmester0 can help with that.

If you add a README, I think, we can accept this PR when @RasmusHoldsbjergCSAU is happy.

File: src/Hacspec/Curve/EquivToBedrock.v (hunk 8 above)
Comment (RasmusHoldsbjergCSAU) [reply src/Hacspec/Curve/EquivToBedrock.v:127]: fiat-crypto has some tactics that may be helpful when dealing with modular equalities:
https://github.com/mit-plv/fiat-crypto/blob/master/src/Util/ZUtil/Tactics/PullPush/Modulo.v
namely pull_Zmod and push_Zmod.
